US07645789B2
To a stirred solution of (S)-(2,2-dimethyl-1,3-dioxolan-4-yl)methyl 4-methylbenzenesulfonate (1.58 g, 5.50 mmol) in anhydrous DMF (10 mL) under nitrogen gas was added 2-tert-butyl-5-nitro-1H-indole (1.00 g, 4.58 mmol) followed by Cs2CO3 (2.99 g, 9.16 mol). The mixture was stirred and heated at 80° C. under nitrogen gas. After 20 hours, 50% conversion was observed by LCMS. The reaction mixture was re-treated with Cs2CO3 (2.99 g, 9.16 mol) and (S)-(2,2-dimethyl-1,3-dioxolan-4-yl)methyl 4-methylbenzenesulfonate (1.58 g, 5.50 mmol) and heated at 80° C. for 24 hours. The reaction mixture was cooled to room temperature. The solids were filtered and washed with ethyl acetate and hexane (1:1). The layers were separated and the organic layer was washed with water (2×10 mL) and brine (2×10 mL). The organic layer was dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (dichloromethane/hexane=1.5/1) to give (R)-2-tert-butyl-1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-5-nitro-1H-indole (1.0 g, 66%). 1H NMR (400 MHz, CDCl3) δ 8.48 (d, J=2.2 Hz, 1H), 8.08 (dd, J=2.2, 9.1 Hz, 1H), 7.49 (d, J=9.1 Hz, 1H), 6.00 (s, 1H), 4.52-4.45 (m, 3H), 4.12 (dd, J=6.0, 8.6 Hz, 1H), 3.78 (dd, J=6.0, 8.6 Hz, 1H), 1.53 (s, 3H), 1.51 (s, 9H), 1.33 (s, 3H).

reactant | (S)-(2,2-dimethyl-1,3-dioxolan-4-yl)methyl 4-methylbenzenesulfonate | 5.50 mmol, 1.58 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1OC(OC1)(C)C | C13H18O5S
reactant | 2-tert-butyl-5-nitro-1H-indole | 4.58 mmol, 1.00 g | C(C)(C)(C)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C12H14N2O2
reactant | Cs2CO3 | 9.16 mol, 2.99 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Cs2CO3 | 9.16 mol, 2.99 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (S)-(2,2-dimethyl-1,3-dioxolan-4-yl)methyl 4-methylbenzenesulfonate | 5.50 mmol, 1.58 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1OC(OC1)(C)C | C13H18O5S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (R)-2-tert-butyl-1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-5-nitro-1H-indole | 1.0 g, 66% | C(C)(C)(C)C=1N(C2=CC=C(C=C2C1)[N+](=O)[O-])C[C@H]1OC(OC1)(C)C | C18H24N2O4
